US06903090B2
Preparation of 3-benzoyl-10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole
A mixture of 3-benzoyl -10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (0.923 g, 2.5 mmol) and tetrakis(triphenylphosphine)paliadium (0.29 g, 0.25 mmol) in dimethoxyethane (10.0 mL) and a solution of 3,5-difluorophenylboronic acid (0.95 g of a 50% by weight solution in THF/H2O, 3.0 mmol) and sodium carbonate (2 M, 12.0 mL) were reacted in a manner similar to Preparation 1. Column chromatography (silica gel, 1-5% MeOH/CHC1-3) afforded 1.03 g (100%) of a white solid: mp 198-201° C.; 1H NMR (400 MHz, CDCl3) δ 8.32, 7.40-7.28, 7.14, 6.98-6.80, 6.80-6.70, 4.04-3.94, 3.83-3.73, 3.65-3.58, 3.60-3.50, 3.20-3.13, 2.94-2.84, 2.71-2.60, 2.45-2.36; IR (drift) 3235, 3211, 1607, 1466, 1431, 1336, 1291, 1117, 984, 864, 789, 751, 737, 704, 698 cm−1; MS (EI) m/z 402 (M+); Anal. Calcd for C25H20F2N2O: C, 74.61; H, 5.01; N, 6.96. Found: C, 74.57; H, 5.05; N, 6.99.

reactant | 3-benzoyl -10-bromo-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 2.5 mmol, 0.923 g | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)Br | C19H17BrN2O
reactant | 3,5-difluorophenylboronic acid | FC=1C=C(C=C(C1)F)B(O)O | C6H5BF2O2
reactant | sodium carbonate | 2 M, 12.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | MeOH | CO | CH4O
solvent | dimethoxyethane | 10.0 mL | C(OC)COC | C4H10O2
solvent | THF H2O | C1CCOC1.O
product | 3-benzoyl-10-(3,5-difluorophenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 1.03 g, 100% | C(C1=CC=CC=C1)(=O)N1CCC=2NC=3C=CC=C(C3C2CC1)C1=CC(=CC(=C1)F)F | C25H20F2N2O
